US04919708
Under a dry nitrogen atmosphere a stirred solution of 2.4 g (0.01 mole) of 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine in 140 mL of methanol was cooled to -60° C. in a dry ice-isopropanol bath. Trifluoroacetonitrile (23.2 g, 0.24 mole) was bubbled into the cold solution during a two minute period. After complete addition the cold solution was stirred for 30 minutes, then allowed to warm slowly to room temperature during the next three hours. A stream of nitrogen gas was bubbled into the room temperature solution to aid in the vaporization and removal of trifluoroacetonitrile, leaving a liquid residue. This residue was evaporated further under reduced pressure to leave a resinous material. This material was stirred in cold pentane to produce a solid. The pentane was decanted and the solid triturated in fresh cold pentane. The pentane was decanted and the solid dried under reduced pressure to yield 2.9 g of N-[2,4-dichloro-5-(1-methylethoxy)anilino]trifluoroacetamidine (mp 80.5°-81° C.).

reactant | 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine | 0.01 mole, 2.4 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)NN | C9H12Cl2N2O
reactant | Trifluoroacetonitrile | 0.24 mole, 23.2 g | FC(C#N)(F)F | C2F3N
solvent | methanol | 140 mL | CO | CH4O
solvent | pentane | CCCCC | C5H12
product | N-[2,4-dichloro-5-(1-methylethoxy)anilino]trifluoroacetamidine | 2.9 g | ClC1=C(NNC(C(F)(F)F)=N)C=C(C(=C1)Cl)OC(C)C | C11H12Cl2F3N3O
